US07439393B2
iv) N-(4-{[2-({6-[(5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)ethoxy]methyl}phenyl)-N′-phenylurea
A solution of (5R)-3-(6-{2-[(4-aminobenzyl)oxy]ethoxy}hexyl)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one (150 mg) in dichloromethane (5 ml) under nitrogen was treated with phenyl isocyanate (0.07 ml) and the mixture stirred at 20° for 5 h. Isopropyl alcohol (5 ml) was added and the solution was stirred for a further 18 h. The solvent was evaporated in vacuo and the residue purified by SPE (silica, 10 g). Elution with EtOAc-cyclohexane (3:7) then EtOAc gave the title compound (159 mg). LCMS RT=3.68 min.

reactant | (5R)-3-(6-{2-[(4-aminobenzyl)oxy]ethoxy}hexyl)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one | 150 mg | NC1=CC=C(COCCOCCCCCCN2C(O[C@@H](C2)C2=CC3=C(OC(OC3)(C)C)C=C2)=O)C=C1 | C28H38N2O6
reactant | phenyl isocyanate | 0.07 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | Isopropyl alcohol | 5 ml | C(C)(C)O | C3H8O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-(4-{[2-({6-[(5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)ethoxy]methyl}phenyl)-N′-phenylurea | 159 mg | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCCCCCOCCOCC2=CC=C(C=C2)NC(=O)NC2=CC=CC=C2)C | C35H43N3O7
